US05536701
1-Methyl-3-(trifluoromethyl)-1H-pyrazol-5-ol (4.0 g, 0.024 mole), 3-chloro-5-methoxypyridazine (3.5 g, 0.024 mole), and 2,6-1-lutidine (3.0 g, 0.028 mole) were heated to reflux in toluene (75 mL) under N2 and held there for 22.5 h. The mixture was poured into diluted HCl (1%) aqueous solution and extracted 2×100 mL with ethyl acetate. The organic layer was extracted with brine followed by dilute NaOH (1%, 2×100 mL). The organic layer was dried (MgSO4), filtered through silica gel with ethyl acetate and evaporated in vacuo to give 5-methoxy-3-[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]-pyridazine (6.25 g, 95% yield) as a light brown solid. This solid was recrystallized from ethyl acetate/cyclohexane.

reactant | 1-Methyl-3-(trifluoromethyl)-1H-pyrazol-5-ol | 0.024 mole, 4.0 g | CN1N=C(C=C1O)C(F)(F)F | C5H5F3N2O
reactant | 3-chloro-5-methoxypyridazine | 0.024 mole, 3.5 g | ClC=1N=NC=C(C1)OC | C5H5ClN2O
reactant | HCl | Cl | ClH
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 5-methoxy-3-[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]-pyridazine | 6.25 g, 95% yield | COC=1C=C(N=NC1)OC1=CC(=NN1C)C(F)(F)F | C10H9F3N4O2
